2125-10-18 12:40:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2125-10-17**] 09:41 PM
 PICC LINE - START [**2125-10-17**] 10:15 PM
   History obtained from [**Hospital 31**] Medical records, limited by patient
   being on vent and not being able to verbalise
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-18**] 12:00 AM
   Vancomycin - [**2125-10-18**] 08:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain, Diarrhea
   Psychiatric / Sleep: confusion
   Flowsheet Data as of  [**2125-10-18**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 59 (59 - 81) bpm
   BP: 100/52(64) {93/48(59) - 114/60(73)} mmHg
   RR: 23 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 74 Inch
             Total In:
                                                                     18 mL
                                                                  1,331 mL
   PO:
             TF:
   IVF:
                                                                     18 mL
                                                                  1,121 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    740 mL
   Urine:
                                                                    550 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -532 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.47/44/82
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy  with purulence
   around it
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   mild sternal wound with erythema superiorly
   Abdominal: Soft, Tender: mildly without rebount [**Last Name (LF) 1336**], [**First Name3 (LF) **] tube clean dry
   and intact
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, LUE brace, RUE PICC.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, wean Left 0/5 arm, [**2-19**] leg.
   Labs / Radiology
   9.0 g/dL
   161 K/uL
   106 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.6 mEq/L
   25 mg/dL
   101 mEq/L
   137 mEq/L
   29.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
   WBC
   15.4
   Hct
   29.0
   Plt
   161
   Cr
   0.9
   Glucose
   106
   Other labs: PT / PTT / INR:18.8/36.7/1.7, Differential-Neuts:88.4 %,
   Lymph:6.6 %, Mono:3.4 %, Eos:1.5 %, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR
   Microbiology: panculture with no new data
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Cellulitis peritrach site vs pneumonia, ++ secretions on vent,
   continue vanc/ceftriaxone, no prior resistant organisms. Follow up
   culture data. Will swab trach site for culture. Will assess for need to
   remove PICC based on blood culture data.
 Hypotension: responded to 1L iV bolus, now with good urine out put
   continue to monitor, will keep in ICU today to monitor.
 Respiratory: trach collar today. Rest overnight on ventilator
   ICU Care
   Nutrition:
   Comments: consult nutrition
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-17**] 10:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  will update family regarding his status
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-19 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Hypotensive after getting BP meds. D/c'd meds and
   gave ~ 2.5L in fluid boluses with some improvement.
   - Blood cx + for GPCs in pairs and clusters
   - Placed 2PIVs with plan to d/c picc as probable source of infection.
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-18**] 06:52 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-18**] 08:00 PM
   Ceftriaxone - [**2125-10-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 04:27 PM
   Ranitidine (Prophylaxis) - [**2125-10-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-19**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 74 (53 - 87) bpm
   BP: 104/57(68) {79/42(51) - 116/63(76)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  4,428 mL
                                                                    426 mL
   PO:
             TF:
                                                                    258 mL
                                                                    237 mL
   IVF:
                                                                  3,690 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    520 mL
   Urine:
                                                                  1,365 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,063 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 516 (302 - 516) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 97%
   ABG: ///24/
   Ve: 10.5 L/min
   Physical Examination
   trach collar in place
   Chest- CTA
   Cv- RRR, murmur, sternum erythema
   Abd soft, NT, PEG tube in place
   Ext
 no edema
   Labs / Radiology
   161 K/uL
   8.4 g/dL
   120 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.4 mEq/L
   26 mg/dL
   106 mEq/L
   138 mEq/L
   26.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
   WBC
   15.4
   10.1
   Hct
   29.0
   26.9
   Plt
   161
   161
   Cr
   0.9
   0.9
   Glucose
   106
   120
   Other labs: PT / PTT / INR:19.7/35.2/1.8, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
[**2125-10-17**] 2:44 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Anaerobic Bottle Gram Stain (Final [**2125-10-18**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
         REPORTED BY PHONE TO [**Last Name (LF) **], [**First Name3 (LF) **] @1639 ON [**2125-10-18**].
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with possible pneumonia and cellulitis, rule
   out mediastinitis.
   # Fever/Sepsis Most likely etiologies are pneumonia (given CT findings)
   and cellulitis (given subcutaneous stranding on CT over sternum,
   erythema) and cellulitis over trach site. Bacteremia with GPC, concern
   for PICC line infection.  BP was low on [**10-18**] likely from spesis and pt
   on BP meds, responded to fluids.
   - f/u on urine, blood, sputum, trach site cultures
   - c. diff pending
   - Continue Vanc, CTX
   - tylenol prn fever
   - will need to remove PICC
   - f/u OSH micro
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on PS.
   - Cont PS for now
   - f/u ABG
   - Continue home albuterol
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis.
   - continue ASA, statin
   - hold BB, ACEi, CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   coumadin as outpatient,
   - coumadin 2mg
   - Continue amio
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, coumadin
   ICU Care
   Nutrition: tube feeds
   Fibersource HN (Full) - [**2125-10-18**] 03:25 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-17**] 10:15 PM
   18 Gauge - [**2125-10-19**] 03:46 AM
   Prophylaxis:
   DVT:  coumadin
   Stress ulcer: home ranitidine
   VAP:
   Comments:
   Communication:  Comments: With sister [**Name (NI) **] [**Name (NI) **], [**Telephone/Fax (1) 7991**], and
   patient
   Code status:  Full
   Disposition: ICU for now, consider transfer to floor once BP stable and
   PICC removed
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   His blood cultures have returned positive for GPC
s and he has been
   borderline hypotensive requiring IVF
s. His PICC will be discontinued
   once peripheral IV
s have been placed. He will remain in the ICU till
   he has stabilized hemodynamically and would prefer to hold off on trach
   collar trials till sepsis has resolved..
   Patient is ill but improving
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2125-10-19**] 17:31 ------

2125-10-20 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-19**]
   -was on PS during the day
   -PICC line removed, 2 PIVs placed
   -blood cx with one bottle with coag neg staph from [**10-17**]
   24 Hour Events:
 PICC LINE - STOP [**2125-10-19**] 09:00 AM
 SPUTUM CULTURE - At [**2125-10-19**] 06:36 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-19**] 08:00 PM
   Ceftriaxone - [**2125-10-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 66 (55 - 82) bpm
   BP: 111/60(68) {93/47(58) - 121/60(74)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,660 mL
                                                                    367 mL
   PO:
             TF:
                                                                    720 mL
                                                                    238 mL
   IVF:
                                                                    690 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    460 mL
   Urine:
                                                                  1,685 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -25 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 664 (499 - 664) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach with surrounding erythema, mucus
   membranes dry
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anteriorly), Sternum with mild erythema
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG C/D/I
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash: sternum erythema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Time, place, name, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   177 K/uL
   8.6 g/dL
   110 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   139 mEq/L
   26.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
   WBC
   15.4
   10.1
   9.3
   Hct
   29.0
   26.9
   26.8
   Plt
   161
   161
   177
   Cr
   0.9
   0.9
   0.8
   Glucose
   106
   120
   110
   Other labs: PT / PTT / INR:17.9/35.2/1.6, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with possible pneumonia and cellulitis, rule
   out mediastinitis.
   # Fever/Sepsis Most likely etiologies are pneumonia (given CT findings)
   and cellulitis (given subcutaneous stranding on CT over sternum,
   erythema) and cellulitis over trach site. Bacteremia with GPC, concern
   for PICC line infection.  BP was low on [**10-18**] likely from spesis and pt
   on BP meds, responded to fluids.
   - f/u on urine, blood, sputum, trach site cultures
   - c. diff negative
   - Continue Vanc, change ceftriaxone to cefepime for 8 day course for
   VAP, final day [**2125-9-27**]
   - tylenol prn fever
   - place PICC
   - f/u OSH micro
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on PS.
   - Cont PS for now
   - f/u ABG
   - Continue home albuterol
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - restart ACEi
   - hold BB, CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   coumadin as outpatient,
   - coumadin 3mg
   - Continue amio
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, coumadin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-19**] 08:02 AM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-10-19**] 07:00 AM
   Prophylaxis:
   DVT: heparin sub q
   Stress ulcer:  ranitidine
   VAP:  HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending CM discussion pt needs PICC to return home

2125-10-20 10:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   60M with complicated course post CABG/AVR/MVR and trached in that
   setting, admitted from chronic vent unit with GPC in blood (presumed
   from PICC) and fevers.
   24 Hour Events:
   - Generally on TM day, V/C night, although yesterday, on PS during the
   day (because he felt more SOB).
   - PICC line removed, PIVs placed.
   - Hemodynamically stable o/n.
   - Back on PS this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-19**] 08:00 PM
   Ceftriaxone - [**2125-10-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-20**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 62 (55 - 70) bpm
   BP: 115/59(72) {93/47(58) - 115/60(72)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,660 mL
                                                                    475 mL
   PO:
             TF:
                                                                    720 mL
                                                                    324 mL
   IVF:
                                                                    690 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    620 mL
   Urine:
                                                                  1,685 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -25 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 664 (499 - 664) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   GEN:  Awake, alert
   PULM: Rhonchi R base, otherwise clear.
   CV:  Irreg, no M
   ABD: G-tube in place, soft, NT, ND
   EXT:  No edema
   Labs / Radiology
   8.6 g/dL
   177 K/uL
   110 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   139 mEq/L
   26.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
   WBC
   15.4
   10.1
   9.3
   Hct
   29.0
   26.9
   26.8
   Plt
   161
   161
   177
   Cr
   0.9
   0.9
   0.8
   Glucose
   106
   120
   110
   Other labs: PT / PTT / INR:17.9/35.2/1.6, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   CXR:  R basilar opacity.
   Assessment and Plan
   67M with recent AVR/MVR, admitted with leukocytosis, fevers
 initially
   though to be line infection, lung seems more likely source.
   1.       Fevers, leukocytosis
 initially thought to be line infection,
   but only
 bottles GPC, but with increased secretions, RLL opacity,
   lungs more likely source.   Given residence in chronic vent facility;
   would treat for HAP with vanc/cefepime.
   - Follow-up sputum cultures; repeating CXR.
   - Wld benefit from MIE to help with secretions.
   - Goal to come down on PS during day.
   2.  CV
 CAD, recent valvular repair, no chest pain
   - Cont ASA, statin; will slowly add back cardiac meds as BP tolerates
   (low dose ACEI).
   - For AF/flutter: on coumadin, amiodarone.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-20**] 06:27 AM 45 mL/hour
   Glycemic Control:  on RISS
   Lines:
   18 Gauge - [**2125-10-19**] 07:00 AM
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer:  On raniditine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  25 mins

2125-10-21 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sputum cx 4+ GNRs, pseudomonas
   - developed a morbilloform drug rash, hours after received ctx. has
   been on ctx/vanco since [**10-15**]. nonetheless, changed abx to
   cipro/aztreonam/vanco
   - Gave benadryl, sarna lotion
   - miconazole cream for groin rash
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-20**] 12:00 AM
   Vancomycin - [**2125-10-20**] 08:06 PM
   Aztreonam - [**2125-10-21**] 01:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-21**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-21**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 63 (59 - 79) bpm
   BP: 112/59(72) {94/52(62) - 131/67(96)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,933 mL
                                                                    808 mL
   PO:
             TF:
                                                                    993 mL
                                                                    509 mL
   IVF:
                                                                    790 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    300 mL
   Urine:
                                                                  1,385 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    248 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 261 (261 - 533) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   9.2 g/dL
   124 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   28.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   Hct
   29.0
   26.9
   26.8
   28.2
   Plt
   161
   161
   177
   187
   Cr
   0.9
   0.9
   0.8
   0.8
   Glucose
   106
   120
   110
   124
   Other labs: PT / PTT / INR:17.9/35.2/1.6, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
[**2125-10-19**] 6:09 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2125-10-19**]):
      THIS IS A CORRECTED REPORT [**2125-10-20**].
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
                                    CONSISTENT WITH CORYNEBACTERIUM OR
                                   PROPIONIBACTERIUM SPECIES.
      PREVIOUSLY REPORTED AS [**2125-10-19**].
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8125**] (CC7D) ON [**2125-10-20**] AT 15:06.
   RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         OF TWO COLONIAL MORPHOLOGIES.
         GRAM NEGATIVE ROD #3.    SPARSE GROWTH
   Assessment and Plan
 RASH
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with possible pneumonia and cellulitis, rule
   out mediastinitis.
    # Fever/Sepsis Most likely etiology is pneumonia given CT findings and
   moderate growth of pseudomonas. Also with thick mucus suctioned from
   trach. Cellulitis is other possibility but less likely given clear
   source on micro. Bacteremia with GPC, concern for PICC line infection
   though tip not growing anything. This was likely contaminant.
   - f/u on cultures and sensis
   - c. diff negative
   - Continue cefepime. Will tx for 2 week course.
   - Vanco will be d/c
d if cx remain negative
   - tylenol prn fever
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on PS. Underlying pneumonia likely limiting factor for
   patient to transition to trach collar.  Will continue PS or AC as pt
   tolerates. Will titrate down FI02 and PEEP, monitoring 02sats.
   - Cont PS for now
   - Continue home albuterol
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - restart ACEi
   - hold BB, CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   coumadin as outpatient,
   - coumadin 3mg
   - monitor coags
   - Continue amio
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, coumadin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-20**] 10:32 PM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-10-19**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2125-10-21 13:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   60M recent CABG, AvR/MVR, a/w fever.
   24 Hour Events:
   - Rash yesterday post-CTX (but had also received previously); got
   benadryl/sarna, on ranitidine.
   - Changed abx to vanc/cipro/aztreonam
   - Pseudomonas in sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-20**] 12:00 AM
   Vancomycin - [**2125-10-21**] 08:00 AM
   Aztreonam - [**2125-10-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-21**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-21**] 01:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 78 (59 - 88) bpm
   BP: 119/56(70) {94/52(62) - 131/69(96)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,933 mL
                                                                  1,593 mL
   PO:
             TF:
                                                                    993 mL
                                                                    902 mL
   IVF:
                                                                    790 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    604 mL
   Urine:
                                                                  1,385 mL
                                                                    604 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    248 mL
                                                                    989 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (261 - 533) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 38
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 9 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 13.2 L/min
   Physical Examination
   GEN:  Awake, alert, communicating with writing.
   HEENT:  L facial droop.
   PULM:  Diffuse rhonchi
   CV: Irreg
   ABD: soft
   DERM: Rash improving
   EXT: Warm, no edema
   Labs / Radiology
   9.2 g/dL
   187 K/uL
   124 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   28.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   Hct
   29.0
   26.9
   26.8
   28.2
   Plt
   161
   161
   177
   187
   Cr
   0.9
   0.9
   0.8
   0.8
   Glucose
   106
   120
   110
   124
   Other labs: PT / PTT / INR:17.9/35.2/1.6, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: Increasing opacity LLL, ? new pl eff (poor visualization
   L costophren angle)
   Microbiology: PsA in sputum
   PICC cx pending
   C. diff negative
   Bld cx: NGTD
   Assessment and Plan
 RASH
 improved
 will add CTX to allergy
 RESPIRATORY FAILURE, CHRONIC
 on PS currently
   - Need to maximize pulmonary toilet to help with secretions
   - On aztreonam/cipro for double coverage for PSA; await senses
   - [**Month (only) 11**] benefit from MIE
   - Wean FiO2, will try wean of PS as well.
 HYPOTENSION (NOT SHOCK)
 thought initially [**3-19**] PICC line infection,
   now PSA PNA
 BP now stable.
   - Will need PICC for abx therapy
   - On a bit of [**Last Name (LF) 3291**], [**First Name3 (LF) 116**]  hold on  other BP meds for now
 AF
 on coumadin, amio
   - needs INR
   CAD
 on statin, ASA
   PT consult today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-21**] 09:35 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-10-19**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Remains ICU for now pending improvement
   Total time spent: 40 minutes

2125-10-22 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-21**]
   - Didn't tolerate PS. Started on AC. Suctioning thick secretions.
   - Weaned FIO2 to 40% and PEEP to 5.
   - INR 1.8
   - Can d/c vanco if cx negative.
   24 Hour Events:
 PAN CULTURE - At [**2125-10-22**] 05:57 AM
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-20**] 12:00 AM
   Vancomycin - [**2125-10-21**] 08:00 PM
   Aztreonam - [**2125-10-22**] 02:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-22**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-22**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 72 (61 - 88) bpm
   BP: 110/53(67) {97/49(61) - 136/69(80)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,945 mL
                                                                    783 mL
   PO:
             TF:
                                                                  1,764 mL
                                                                    656 mL
   IVF:
                                                                    890 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,704 mL
                                                                    485 mL
   Urine:
                                                                  1,084 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,241 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (305 - 400) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 10.4 L/min
   Physical Examination
   Trach in place, with thick secretions
   Arousable, responds to questions
   Chest- rhonchi bilaterally
   CV- rrr, no M
   Abd- soft, NT, ND
   Ext- no c/c/e
   Labs / Radiology
   208 K/uL
   8.9 g/dL
   131 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   13 mg/dL
   105 mEq/L
   141 mEq/L
   27.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   Plt
   161
   161
   177
   187
   208
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   Glucose
   106
   120
   110
   124
   131
   Other labs: PT / PTT / INR:20.5/35.2/1.9, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
[**2125-10-19**] 6:09 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2125-10-19**]):
      THIS IS A CORRECTED REPORT [**2125-10-20**].
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
                                    CONSISTENT WITH CORYNEBACTERIUM OR
                                   PROPIONIBACTERIUM SPECIES.
      PREVIOUSLY REPORTED AS [**2125-10-19**].
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8125**] (CC7D) ON [**2125-10-20**] AT 15:06.
   RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         OF TWO COLONIAL MORPHOLOGIES.
      GRAM NEGATIVE ROD #3.    SPARSE GROWTH.
   Assessment and Plan
 RASH
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with pneumonia and cellulitis, rule out
   mediastinitis.
    # Fever/Sepsis Most likely etiology is pneumonia given CT findings and
   moderate growth of pseudomonas on sputum. Also with thick mucus
   suctioned from trach. Cellulitis is other possibility but less likely
   given clear source on micro. Bacteremia with GPC, concern for PICC line
   infection though tip not growing anything and there was only one blood
   cx with coag negative staph that was likely a contaminant.
   - f/u on cultures and sensis
   - c. diff negative
   - Continue aztreonam and cipro (was changed from cefepime)
   - Vanco will be d/c
d if cx remain negative
   - tylenol prn fever
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on AC due to difficulty with thick secretions.  Underlying
   pneumonia likely limiting factor for patient to transition to normal
   settingsr.  Will titrate down FI02 and PEEP, monitoring 02sats.
   - Cont PS for now
   - Continue home albuterol
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - restart ACEi
   - hold BB, CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   coumadin as outpatient, INR still subtheraputic
   - coumadin 3mg
   - monitor coags
   - Continue amio
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, coumadin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-22**] 03:35 AM 85 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-10-19**] 07:00 AM
   Prophylaxis:
   DVT: heparin sc, and coumadin
   Stress ulcer: H2B
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2125-10-22 12:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2125-10-22**] 05:57 AM
   - Yesterday did not tolerate PS - likely [**3-19**] secretions, FiO2 weaned to
   40%, PEEP weaned to 5.
   - Temp to 100 this am - pan-cultured.
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-20**] 12:00 AM
   Vancomycin - [**2125-10-22**] 08:00 AM
   Aztreonam - [**2125-10-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-22**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-22**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 74 (63 - 86) bpm
   BP: 124/57(72) {96/35(52) - 136/65(80)} mmHg
   RR: 21 (19 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,945 mL
                                                                  1,447 mL
   PO:
             TF:
                                                                  1,764 mL
                                                                  1,025 mL
   IVF:
                                                                    890 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,704 mL
                                                                    840 mL
   Urine:
                                                                  1,084 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,241 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 13 L/min
   Physical Examination
   GEN: Pleasant
   HEENT: L facial droop
   PULM: Diffuse rhonchi, crackles R  base
   Labs / Radiology
   CXR:  Mostly stable, b/l pleural effusions, R>L
   8.9 g/dL
   208 K/uL
   131 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   13 mg/dL
   105 mEq/L
   141 mEq/L
   27.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   Plt
   161
   161
   177
   187
   208
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   Glucose
   106
   120
   110
   124
   131
   Other labs: PT / PTT / INR:20.5/35.2/1.9, Differential-Neuts:79.8 %,
   Lymph:12.2 %, Mono:5.0 %, Eos:2.6 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE
 Acute on chronic
 with PsA PNA
   - Has continued to require increased ventilatory support, with
   difficulty tolerating PS [**3-19**] dyspnea, predominantly related to
   secretions, will consider bronch for cleanout.
   - Cont abx for PNA
   - Maximize pulm toilet
 HYPOTENSION (NOT SHOCK)
 related to PNA (though first thought to be
   PICC line infection)
   - continue aztreonam/cipro; await sensis for pseudomonas
   - will d/c vanc if initial cx negative
   - fever, rising wbc o/n
 f/u pan cultures
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 but
   hemodynamically stable.
   -  pan cultured.
   AF
 on coumadin, amiodarone
 holding nodal agents currently
 will
   start to add back nodal agents as BP allows.
 RASH
 likely drug rash to CTX, now resolved
   ICU Care
   Nutrition:  On TF - fibersource
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-10-19**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 mins

2125-10-23 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**10-22**]
   - pseudomonas MDR and e. coli on sputum, stopped vanco and cipro and
   aztreonam, started tobramycin
   - continued on AC vent settings
   24 Hour Events:
 PICC LINE - START [**2125-10-22**] 12:20 PM
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-22**] 08:00 AM
   Aztreonam - [**2125-10-22**] 10:00 AM
   Tobramycin - [**2125-10-22**] 03:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 69 (65 - 78) bpm
   BP: 114/61(71) {96/35(52) - 137/94(139)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,830 mL
                                                                    719 mL
   PO:
             TF:
                                                                  2,040 mL
                                                                    644 mL
   IVF:
                                                                    640 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    415 mL
   Urine:
                                                                  1,450 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    980 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   8.4 g/dL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   26.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   Plt
   161
   161
   177
   187
   208
   197
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   Glucose
   106
   120
   110
   124
   131
   133
   Other labs: PT / PTT / INR:23.9/41.8/2.3, Differential-Neuts:80.0 %,
   Lymph:15.2 %, Mono:2.3 %, Eos:2.3 %, Lactic Acid:0.8 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Microbiology:
   _________________________________________________________
SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ESCHERICHIA COLI
                             |          |
AMPICILLIN------------              <=2 S
AMPICILLIN/SULBACTAM--              <=2 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------    16 I      <=1 S
CEFTAZIDIME-----------    16 I      <=1 S
CEFTRIAXONE-----------              <=1 S
CEFUROXIME------------                4 S
CIPROFLOXACIN---------   =>4 R   <=0.25 S
GENTAMICIN------------     8 I      <=1 S
MEROPENEM-------------  =>16 R   <=0.25 S
PIPERACILLIN----------       R      <=4 S
PIPERACILLIN/TAZO-----    64 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----              <=1 S
   [**2125-10-22**] 5:43 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2125-10-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 RASH
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with pneumonia and cellulitis, rule out
   mediastinitis.
    # Fever/Sepsis Most likely etiology is pneumonia given CT findings and
   moderate growth of pseudomonas and e. coli on sputum. Also with thick
   mucus suctioned from trach. Blood culture x 1 with GPC, concern for
   PICC line infection though tip not growing anything and there was only
   one blood cx with coag negative staph therefore likely a contaminant.
   Sputum with multidrug resistant pseudomonas
   - change to tobramycin based on culture data
   - tylenol prn fever
   - check tobra trough today at 3pm and reassess dosing
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on AC due to difficulty with thick secretions.  Underlying
   pneumonia likely limiting factor for patient to transition to normal
   settings.
   - Trial of trach collar today
   - consider bronch today to improve airways
   - Continue home albuterol
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - continue ACEi
   - hold BB, CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   coumadin as outpatient, INR still subtheraputic
   - coumadin 3mg
   - monitor coags
   - Continue amio
   # Muscle spasms: bilateral LEs and L arm at night. ? etiology [**3-19**]
   medication.
   - will  monitor
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, coumadin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-23**] 04:52 AM 85 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2125-10-23 11:00:00 Physician Attending Progress Note
Chief Complaint: pseudomonas VAP vs trancheobronchitis, sepsis
   resolved.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PICC line reinserted [**10-22**]. started on tobra iv for pseudomonas in sputum
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-22**] 08:00 AM
   Aztreonam - [**2125-10-22**] 10:00 AM
   Tobramycin - [**2125-10-22**] 03:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 04:11 AM
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **] 81, amiodarone 200 daily, zantac, chlorhexidine, RISS, MVI,
   atrovent, coumadin , lisnopril, heparin s/c tid, miconazole cream.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 63 (63 - 78) bpm
   BP: 116/55(69) {105/35(52) - 137/94(139)} mmHg
   RR: 22 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,830 mL
                                                                  1,169 mL
   PO:
             TF:
                                                                  2,040 mL
                                                                    903 mL
   IVF:
                                                                    640 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    655 mL
   Urine:
                                                                  1,450 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    980 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   197 K/uL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   26.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   Plt
   161
   161
   177
   187
   208
   197
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   Glucose
   106
   120
   110
   124
   131
   133
   Other labs: PT / PTT / INR:23.9/41.8/2.3, Differential-Neuts:80.0 %,
   Lymph:15.2 %, Mono:2.3 %, Eos:2.3 %, Lactic Acid:0.8 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RASH: resolved likely secondary to ceftriaxone
 RESPIRATORY FAILURE, CHRONIC
   switch to trach collar this morning, patient has a strong cough.
 HYPOTENSION (NOT SHOCK): resolved, restartedon lisinopril, resume
   bblcoker today
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   VAP vs tracheobronchitis multidrug resistant pseudomonas, continue
   tobramycin, checking trough today. Continue suctioning, will consider
   bronchoscopy for cleanout today. Wean to trach collar today.
   consult PT/OT
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-23**] 04:52 AM 85 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, d/c s/c heparin now that
   he's therapeutic)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2125-10-24 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2125-10-23**] 02:30 PM
   - s/P bronch yesterday. Suctioned thick secretions.
   - PSV
   - No cramps o/n
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-22**] 08:00 AM
   Aztreonam - [**2125-10-22**] 10:00 AM
   Tobramycin - [**2125-10-23**] 03:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2125-10-23**] 02:45 PM
   Fentanyl - [**2125-10-23**] 02:45 PM
   Ranitidine (Prophylaxis) - [**2125-10-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 61 (56 - 77) bpm
   BP: 105/50(63) {95/49(62) - 138/62(81)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,633 mL
                                                                    863 mL
   PO:
             TF:
                                                                  2,013 mL
                                                                    626 mL
   IVF:
                                                                    440 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                  1,450 mL
   Urine:
                                                                  1,615 mL
                                                                    850 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  1,018 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 421 (421 - 441) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   194 K/uL
   8.4 g/dL
   128 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.8 mEq/L
   15 mg/dL
   100 mEq/L
   135 mEq/L
   26.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
                             [**2125-10-24**]  04:25 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   12.8
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   26.3
   Plt
   161
   161
   177
   187
   208
   197
   194
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   Glucose
   106
   120
   110
   124
   131
   133
   128
   Other labs: PT / PTT / INR:20.7/31.3/1.9, Differential-Neuts:80.0 %,
   Lymph:14.1 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: The tracheostomy tip is 6.5 cm above the carina. The
   cardiomediastinal
   silhouette is stable. The replaced mitral valve is in place. There is
   bilateral pleural effusion and right lower lobe opacity that might
   represent a combination of atelectasis and infectious process. The left
   retrocardiac atelectasis has also progressed and might represent an
   additional source of infection as well.
   Microbiology: Sputum [**10-22**]: 3+ GNRs
                [**10-19**]: 4+ GNRs (Pseudomonas and E.coli)
   Assessment and Plan
 RASH
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with pneumonia and cellulitis, rule out
   mediastinitis.
    # Fever/Sepsis Most likely etiology is pneumonia given CT findings and
   moderate growth of pseudomonas and e. coli on sputum. Also with thick
   mucus suctioned from trach. Blood culture x 1 with GPC, concern for
   PICC line infection though tip not growing anything and there was only
   one blood cx with coag negative staph therefore likely a contaminant.
   Sputum with multidrug resistant pseudomonas
   - change to tobramycin based on culture data, 2 week course, (on day
   3), trough Q3days or if Cr changes
   - tylenol prn fever
   - check tobra trough today at 3pm and reassess dosing
   - repeat bronch may benefit pt
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on AC due to difficulty with thick secretions.  Underlying
   pneumonia likely limiting factor for patient to transition to normal
   settings.
   - AC as needed
   - consider bronch today to improve airways
   - Continue home albuterol
   - lasix 20mg IV x1 to help reduce any pulm edema
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - continue ACEi
   - continue BB low dose
   - hold CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   Coumadin as outpatient, INR still subtheraputic
   - Coumadin 4mg today (increased dose due to now off cipro)
   - monitor coags
   - Continue amio
   # Muscle spasms: bilateral LEs and L arm at night. ? etiology [**3-19**]
   medication.  None overnight
   - will  monitor
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, Coumadin
   # Anxiety:
   - start celexa 10mg
   - low dose ativan PRN for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-24**] 04:23 AM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: will try to transition back to acute long term care
   facilty

2125-10-24 10:43:00 Physician Attending Progress Note
Chief Complaint: pseudomonal VAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tachypneic and air hunger this am, switched back to AC.
   History obtained from Patient
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-22**] 08:00 AM
   Aztreonam - [**2125-10-22**] 10:00 AM
   Tobramycin - [**2125-10-23**] 03:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2125-10-23**] 02:45 PM
   Fentanyl - [**2125-10-23**] 02:45 PM
   Ranitidine (Prophylaxis) - [**2125-10-23**] 08:00 PM
   Lorazepam (Ativan) - [**2125-10-24**] 09:07 AM
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **], amiodarone, ranitidine, chlorhexidine [**Hospital1 **], atrovent,
   coumadin 3, lisinopril, miconazole cream, tobramicin, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-24**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 64 (56 - 78) bpm
   BP: 122/55(69) {95/49(62) - 165/62(85)} mmHg
   RR: 25 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,633 mL
                                                                  1,264 mL
   PO:
             TF:
                                                                  2,013 mL
                                                                    880 mL
   IVF:
                                                                    440 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                  1,830 mL
   Urine:
                                                                  1,615 mL
                                                                  1,230 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  1,018 mL
                                                                   -566 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 421 (421 - 441) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, trach tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, PEG
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   194 K/uL
   128 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.8 mEq/L
   15 mg/dL
   100 mEq/L
   135 mEq/L
   26.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
                             [**2125-10-24**]  04:25 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   12.8
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   26.3
   Plt
   161
   161
   177
   187
   208
   197
   194
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   Glucose
   106
   120
   110
   124
   131
   133
   128
   Other labs: PT / PTT / INR:20.7/31.3/1.9, Differential-Neuts:80.0 %,
   Lymph:14.1 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: stable.
   Assessment and Plan
 RESPIRATORY FAILURE, pseudomonal pneumonia:
   tolerated pressure support for a prolonged period of time yesterday,
   will re bronch today for airway clearance. Will require 14 day course
   of pseumonal coverage.
   Diurese gently today with 20iv lasix goal -1L.
 HYPOTENSION (NOT SHOCK): resolved
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN): resolved
Anxiety start low dose celexa.
   likely transfer soon to rehab, will discuss with casemangement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-24**] 04:23 AM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2125-10-25 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Bronch again yesterday with persistent secretions
   though some improvement
   Will d/c to rehab when suctioning requirement decreases
   Had muscle cramps O/N on left side. Got oxycodone.
   Was given one dose of lasix
   24 Hour Events:
 BRONCHOSCOPY - At [**2125-10-24**] 02:00 PM
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-22**] 08:00 AM
   Aztreonam - [**2125-10-22**] 10:00 AM
   Tobramycin - [**2125-10-24**] 02:42 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2125-10-24**] 09:07 AM
   Furosemide (Lasix) - [**2125-10-24**] 11:00 AM
   Midazolam (Versed) - [**2125-10-24**] 02:00 PM
   Fentanyl - [**2125-10-24**] 02:00 PM
   Ranitidine (Prophylaxis) - [**2125-10-24**] 08:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-25**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 64 (54 - 84) bpm
   BP: 116/53(68) {101/46(60) - 165/64(85)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,736 mL
                                                                    861 mL
   PO:
             TF:
                                                                  1,996 mL
                                                                    637 mL
   IVF:
                                                                    440 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    510 mL
   Urine:
                                                                  3,490 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,354 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 336 (336 - 336) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   194 K/uL
   9.0 g/dL
   131 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.4 mEq/L
   16 mg/dL
   98 mEq/L
   134 mEq/L
   27.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
                             [**2125-10-24**]  04:25 AM
                             [**2125-10-25**]  04:16 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   12.8
   11.8
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   26.3
   27.0
   Plt
   161
   161
   177
   187
   [**Telephone/Fax (2) 8196**]94
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   0.8
   Glucose
   106
   120
   110
   124
   131
   133
   128
   131
   Other labs: PT / PTT / INR:20.1/30.6/1.9, Differential-Neuts:80.0 %,
   Lymph:14.1 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RASH
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with pneumonia and possible cellulitis.
    # Fever/Sepsis Most likely etiology is pneumonia given CT findings and
   moderate growth of pseudomonas and e. coli on sputum. Also with thick
   mucus suctioned from trach. Blood culture x 1 with GPC, concern for
   PICC line infection though tip not growing anything and there was only
   one blood cx with coag negative staph therefore likely a contaminant.
   Sputum with multidrug resistant pseudomonas
   - change to tobramycin based on culture data, 2 week course, (on day
   4), trough Q3days or if Cr changes
   - tylenol prn fever
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on AC due to difficulty with thick secretions.  Underlying
   pneumonia likely limiting factor for patient to transition to normal
   settings.  Had bronch yesterday
   - AC as needed
   - Continue home albuterol
   - lasix PRN
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - continue ACEi
   - continue BB low dose
   - hold CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   Coumadin as outpatient, INR still subtheraputic
   - Coumadin 4mg today (increased dose due to now off cipro)
   - monitor coags
   - Continue amio
   # Muscle spasms: bilateral LEs and L arm at night. ? etiology [**3-19**]
   medication.  Again last night
   - will monitor
   - oxycodone PRN
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, Coumadin
   # Anxiety:
   - start celexa 10mg
   - low dose ativan PRN for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-25**] 02:09 AM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: iCU for now while suctioning needs are still frequent

2125-10-25 11:11:00 Physician Attending Progress Note
Chief Complaint: Pseudomonal pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Still with significant secretions overnight. Lasix x1 yesterday
   morning.
   Patient unable to provide history: trach'd, but able to communicate
   somewhat by writing.
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2125-10-24**] 02:42 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-10-24**] 11:00 AM
   Midazolam (Versed) - [**2125-10-24**] 02:00 PM
   Fentanyl - [**2125-10-24**] 02:00 PM
   Ranitidine (Prophylaxis) - [**2125-10-24**] 08:36 PM
   Other medications:
   amiodarone, aspirin, ranitidine, atorvastatin, miconazoel cream,
   metoprolol, coumadin, citalopram
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-25**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 71 (54 - 84) bpm
   BP: 116/61(73) {101/46(60) - 128/64(77)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,736 mL
                                                                  1,310 mL
   PO:
             TF:
                                                                  1,996 mL
                                                                    931 mL
   IVF:
                                                                    440 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    870 mL
   Urine:
                                                                  3,490 mL
                                                                    870 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,354 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 487 (336 - 487) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, weak Lt arm and leg
   Labs / Radiology
   9.0 g/dL
   194 K/uL
   131 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.4 mEq/L
   16 mg/dL
   98 mEq/L
   134 mEq/L
   27.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
                             [**2125-10-24**]  04:25 AM
                             [**2125-10-25**]  04:16 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   12.8
   11.8
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   26.3
   27.0
   Plt
   161
   161
   177
   187
   [**Telephone/Fax (2) 8196**]94
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   0.8
   Glucose
   106
   120
   110
   124
   131
   133
   128
   131
   Other labs: PT / PTT / INR:20.1/30.6/1.9, Differential-Neuts:80.0 %,
   Lymph:14.1 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR stable
   Microbiology: no new
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   Pseudomonas VAP on tobramycin day [**5-29**], check another trough tomorrow.
   Needing suctioning q1hour. Doing well on PS. S/p diuresis yesterday
   -1L. Will hold off on further diuresis for now, goal TBB even and if
   necessary can receive 10iv of lasix.
 HYPOTENSION (NOT SHOCK):
   resolved.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   resolved related to pneumonia.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-25**] 10:35 AM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2125-10-26 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-25**]
   - gave laisx 10mg x 1
   - his insurance is working on pt transfer to rehab
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2125-10-25**] 03:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2125-10-25**] 08:13 PM
   Furosemide (Lasix) - [**2125-10-25**] 09:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-26**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 62 (56 - 72) bpm
   BP: 114/53(66) {92/46(58) - 137/65(78)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  3,130 mL
                                                                    821 mL
   PO:
             TF:
                                                                  2,040 mL
                                                                    645 mL
   IVF:
                                                                    340 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    520 mL
   Urine:
                                                                  2,585 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 443 (443 - 523) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 21 cmH2O
   Plateau: 12 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 94%
   ABG: ///30/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   196 K/uL
   8.7 g/dL
   131 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.6 mEq/L
   17 mg/dL
   98 mEq/L
   135 mEq/L
   27.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
                             [**2125-10-24**]  04:25 AM
                             [**2125-10-25**]  04:16 AM
                             [**2125-10-26**]  05:05 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   12.8
   11.8
   11.6
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   26.3
   27.0
   27.3
   Plt
   161
   161
   177
   187
   [**Telephone/Fax (2) 8196**]94
   196
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   0.8
   0.9
   Glucose
   106
   120
   110
   124
   131
   133
   128
   131
   131
   Other labs: PT / PTT / INR:22.1/30.6/2.1, Differential-Neuts:80.0 %,
   Lymph:14.1 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RASH
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man 1 month s/p AVR, MVR, and CABG x 3, now with fever to
   100.9, WBC 18.7 admitted with pneumonia and possible cellulitis.
    # Fever/Sepsis Most likely etiology is pneumonia given CT findings and
   moderate growth of pseudomonas and e. coli on sputum. Also with thick
   mucus suctioned from trach. Sputum with MDR pseudomonas
   - tobramycin (through [**11-4**]), trough Q3days or if Cr changes
   - tylenol prn fever
   # Respiratory distress: Pt was d/c'ed with trach due to inability to
   clear secretions. Discharged with trach collar and vent at night.
   Currently on AC due to difficulty with thick secretions.  Underlying
   pneumonia likely limiting factor for patient to transition to normal
   settings.  Had bronch yesterday
   - AC as needed
   - Continue home albuterol
   - lasix PRN, will give dose today
   # Cardiovascular: EKG improved from prior. No chest pain. BP was low on
   med in setting of sepsis. BP now stable.
   - continue ASA, statin
   - continue ACEi
   - continue BB low dose
   - hold CaCh blocker
   - telemetry as pt on vent, has history of afib
   # H/o afib/flutter: Currently in sinus on EKG. On amiodarone and
   Coumadin as outpatient, INR still subtheraputic
   - Coumadin 4mg today
   - monitor coags
   - Continue amio
   # Muscle spasms: bilateral LEs and L arm at night. ? etiology [**3-19**]
   medication.  Again last night
   - will monitor
   - oxycodone PRN HS
   # H/o CVA: Left hemiparesis improved as L LE now has some strength.
   - Continue statin, aspirin, Coumadin
   # Anxiety:
   - start celexa 10mg
   - low dose ativan PRN for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2125-10-26**] 01:51 AM 85 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: Heparin subq
   VAP:  standard ppx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To rehab when bed available

2125-10-26 11:26:00 Physician Attending Progress Note
Chief Complaint: Pseudomonal pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Quiet night. Overnight on AC ventilation.
   History obtained from Patient
   Allergies:
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Tobramycin - [**2125-10-25**] 03:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2125-10-25**] 08:13 PM
   Furosemide (Lasix) - [**2125-10-25**] 09:32 PM
   Other medications:
   ASA, colace, chlorhexidine, atorvastatin, lisinopril, miconazole creme,
   tobramycin, metoprolol, celexa, coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-26**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 79 (56 - 79) bpm
   BP: 127/69(82) {92/46(58) - 137/69(82)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  3,130 mL
                                                                  1,250 mL
   PO:
             TF:
                                                                  2,040 mL
                                                                    878 mL
   IVF:
                                                                    340 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    700 mL
   Urine:
                                                                  2,585 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 443 (443 - 523) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: ///30/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   196 K/uL
   131 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.6 mEq/L
   17 mg/dL
   98 mEq/L
   135 mEq/L
   27.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2125-10-18**]  04:52 AM
                             [**2125-10-19**]  03:33 AM
                             [**2125-10-20**]  05:23 AM
                             [**2125-10-21**]  03:37 AM
                             [**2125-10-22**]  04:52 AM
                             [**2125-10-23**]  04:06 AM
                             [**2125-10-24**]  04:25 AM
                             [**2125-10-25**]  04:16 AM
                             [**2125-10-26**]  05:05 AM
   WBC
   15.4
   10.1
   9.3
   9.7
   15.7
   13.5
   12.8
   11.8
   11.6
   Hct
   29.0
   26.9
   26.8
   28.2
   27.1
   26.0
   26.3
   27.0
   27.3
   Plt
   161
   161
   177
   187
   [**Telephone/Fax (2) 8196**]94
   196
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.8
   0.8
   0.9
   Glucose
   106
   120
   110
   124
   131
   133
   128
   131
   131
   Other labs: PT / PTT / INR:22.1/30.6/2.1, Differential-Neuts:80.0 %,
   Lymph:14.1 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   pseudomonal pneumonia on tobramycin ( 6/14 days). follow up q3day tobra
   trough. Secretions appear to be slowly improving.  Will give another
   dose of 10 iv lasix.
 HYPOTENSION (NOT SHOCK)
   resolved back on home bblocker and lisinopril, still holding ccb as HR
   has been 60-70s.
Afib: will decreased coumadin dose to 4mg daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-10-22**] 12:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes